US04971982
624 mg of 2,2-dimethyl-4-(2-quinolyl)-2H-1-benzopyran-6-carbonitrile were shaken at room temperature under a hydrogen atmosphere in 25 ml of ethanol with 50 mg of 10% palladium-on-charcoal. After 4 hours the mixture was filtered and the filtrate was evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:2) for the elution. The product was recrystallized from isopropanol to give 410 mg of 3,4-dihydro-2,2-dimethyl-4-(2-quinolyl)-2H-1-benzopyran-6-carbonitrile of melting point 174°-176° C.

reactant | 2,2-dimethyl-4-(2-quinolyl)-2H-1-benzopyran-6-carbonitrile | 624 mg | CC1(OC2=C(C(=C1)C1=NC3=CC=CC=C3C=C1)C=C(C=C2)C#N)C | C21H16N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 50 mg | [Pd] | Pd
product | 3,4-dihydro-2,2-dimethyl-4-(2-quinolyl)-2H-1-benzopyran-6-carbonitrile | 410 mg | CC1(OC2=C(C(C1)C1=NC3=CC=CC=C3C=C1)C=C(C=C2)C#N)C | C21H18N2O
